### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Galois): definition and characterisation of Galois objects

### PR DESCRIPTION
**Pull request by chrisflav**
Defines Galois objects in a Galois category in a fibre functor independent way, also gives an equivalent characterisation in terms of a fibre functor.

To allow for a definition that only depends on `C`, contrary to what was said earlier, we introduce a `GaloisCategory` typeclass extending `PreGaloisCategory` that additionally asserts the existence of a fibre functor.

---

- [x] depends on: #10213 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Galois/Basic.lean [hunk 1]
```diff
@@ -202,4 +206,29 @@ lemma evaluation_aut_injective_of_connected (A : C) [ConnectedObject A] (a : F.o
 
 end PreGaloisCategory
 
+/-- A `PreGaloisCategory` is a `GaloisCategory` if it admits a fibre functor. -/
+class GaloisCategory (C : Type u₁) [Category.{u₂, u₁} C]
+    extends PreGaloisCategory C : Prop where
+  hasFibreFunctor : ∃ F : C ⥤ FintypeCat.{w}, Nonempty (PreGaloisCategory.FibreFunctor F)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Basic.lean:212]: With this definition, `GaloisCategory C` depends on a universe `w` that is unrelated to those that are related to `C`. I think it would be advisable to replace `w` by `u₂` in this definition. (Hopefully, with this definition, the example of finite `G`-sets would be a `GaloisCategory`. Then, in future developments of the API, it could be shown that the existence of a fiber functor `C ⥤ FintypeCat.{w}` is independent of the universe `w`.)

File: Mathlib/CategoryTheory/Galois/GaloisObjects.lean [hunk 2]
```diff
@@ -0,0 +1,89 @@
...
+lemma galois_iff_aux [GaloisCategory C] (X : C) [ConnectedObject X] :
+    GaloisObject X ↔ Nonempty (IsTerminal <| colimit <| SingleObj.functor <| Aut.toEnd X) :=
+  ⟨fun h ↦ h.quotientByAutTerminal, fun h ↦ ⟨inferInstance, h⟩⟩
+
+/-- Given a fibre functor `F` and a connected object `X` of `C`. Then `X` is Galois if and only if
+the natural action of `Aut X` on `F.obj X` is transitive. -/
+theorem galois_iff_pretransitive [GaloisCategory C] (X : C) [ConnectedObject X] :
+    GaloisObject X ↔ MulAction.IsPretransitive (Aut X) (F.obj X) := by
+  rw [galois_iff_aux, Equiv.nonempty_congr <| quotientByAutTerminalEquivUniqueQuotient F X]
+  exact (MulAction.pretransitive_iff_unique_quotient_of_nonempty (Aut X) (F.obj X)).symm
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/GaloisObjects.lean:89]:
```suggestion
  exact (MulAction.pretransitive_iff_unique_quotient_of_nonempty (Aut X) (F.obj X)).symm

end PreGaloisCategory
  
end CategoryTheory
```

File: Mathlib/CategoryTheory/Galois/GaloisObjects.lean [hunk 3]
```diff
@@ -0,0 +1,89 @@
...
+open Limits Functor
+
+noncomputable instance {G : Type v} [Group G] [Finite G] :
+    PreservesColimitsOfShape (SingleObj G) FintypeCat.incl.{w} := by
+  choose G' hg hf e using Finite.exists_type_zero_nonempty_mulEquiv G
+  exact Limits.preservesColimitsOfShapeOfEquiv (Classical.choice e).toSingleObjEquiv.symm _
+
+/-- A connected object `X` of `C` is Galois if the quotient `X / Aut X` is terminal. -/
+class GaloisObject {C : Type u₁} [Category.{u₂, u₁} C] [GaloisCategory C] (X : C) : Prop where
+  connected : ConnectedObject X
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/GaloisObjects.lean:43]:
```suggestion
class GaloisObject {C : Type u₁} [Category.{u₂, u₁} C] [GaloisCategory C] (X : C)
    extends ConnectedObject X : Prop where
```

File: Mathlib/CategoryTheory/Galois/GaloisObjects.lean [hunk 4]
```diff
@@ -0,0 +1,89 @@
...
+  quotientByAutTerminal : Nonempty (IsTerminal <| colimit <| SingleObj.functor <| Aut.toEnd X)
+
+namespace GaloisObject
+
+attribute [instance] connected
+
+end GaloisObject
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/GaloisObjects.lean:50]: This can be removed if we use the `extends` syntax above.

File: Mathlib/CategoryTheory/Galois/GaloisObjects.lean [hunk 5]
```diff
@@ -0,0 +1,89 @@
...
+  one_smul a := by
+    show F.map (𝟙 X) a = a
+    simp only [map_id, FintypeCat.id_apply]
+  mul_smul g h a := by
+    show F.map (h.hom ≫ g.hom) a = (F.map h.hom ≫ F.map g.hom) a
+    simp only [map_comp, FintypeCat.comp_apply]
+
+/-- For a connected object `X` of `C`, the quotient `X / Aut X` is terminal if and only if
+the quotient `F.obj X / Aut X` has exactly one element. -/
+noncomputable def quotientByAutTerminalEquivUniqueQuotient [GaloisCategory C]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/GaloisObjects.lean:67]: There is an issue with the inclusion of variables here as both `PreGaloisCategory C` and `GaloisCategory C` are included. Then, I would think that depending on the situation, only `PreGaloisCategory` or `GaloisCategory` should be explicitly included in the various definitions in this file.

File: Mathlib/CategoryTheory/Galois/GaloisObjects.lean [hunk 6]
```diff
@@ -0,0 +1,89 @@
...
+  exact Types.isTerminalEquivUnique _
+
+lemma galois_iff_aux [GaloisCategory C] (X : C) [ConnectedObject X] :
+    GaloisObject X ↔ Nonempty (IsTerminal <| colimit <| SingleObj.functor <| Aut.toEnd X) :=
+  ⟨fun h ↦ h.quotientByAutTerminal, fun h ↦ ⟨inferInstance, h⟩⟩
+
+/-- Given a fibre functor `F` and a connected object `X` of `C`. Then `X` is Galois if and only if
+the natural action of `Aut X` on `F.obj X` is transitive. -/
+theorem galois_iff_pretransitive [GaloisCategory C] (X : C) [ConnectedObject X] :
+    GaloisObject X ↔ MulAction.IsPretransitive (Aut X) (F.obj X) := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/GaloisObjects.lean:87]: In addition to this nice lemma, it would be good to provide some API:
```lean
noncomputable def isTerminalQuotientGaloisObject (X : C) [GaloisCategory C] [GaloisObject X] :
    IsTerminal <| colimit <| SingleObj.functor <| Aut.toEnd X :=
  Nonempty.some (GaloisObject.quotientByAutTerminal)

instance isPretransitive_of_galoisObject [GaloisCategory C] (X : C) [GaloisObject X] :
    MulAction.IsPretransitive (Aut X) (F.obj X) := by
  rw [← galois_iff_pretransitive]
  infer_instance
```

**Review by joelriou — APPROVED** [review]

File: Mathlib/CategoryTheory/Galois/Basic.lean (hunk 1 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Galois/Basic.lean]: I suppose, we can't write there exists a universe `w` and a fibre functor `F : C ⥤ FintypeCat.{w}`? Finite `G`-sets is a `GaloisCategory` anyway:
```
/-- The category of finite `G`-sets is a `GaloisCategory`. -/
instance : GaloisCategory (Action FintypeCat (MonCat.of G)) where
  hasFibreFunctor := ⟨Action.forget FintypeCat (MonCat.of G), ⟨inferInstance⟩⟩
```
compiles. I will add it to the other PR, to avoid conflicts.

Comment (chrisflav) [reply Mathlib/CategoryTheory/Galois/Basic.lean]: Should all the `FintypeCat` categories be equivalent? One could add the lemma that a functor `F : C ⥤ FintypeCat.{w}` is a `FibreFunctor` if and only if it is so after composing with an equivalence to some other `FintypeCat.{w'}`.

File: Mathlib/CategoryTheory/Galois/GaloisObjects.lean (hunk 5 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Galois/GaloisObjects.lean]: I agree, please check if its better now. In theory it would be best if Lean could infer `GaloisCategory C` from the line `[PreGaloisCategory C] (F : C ⥤ FintypeCat.{w}) [FibreFunctor F]`, but since `GaloisCategory C` does not depend on `F`, this won't work I think.

File: Mathlib/CategoryTheory/Galois/Basic.lean (hunk 1 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Galois/Basic.lean]: > I will add it to the other PR, to avoid conflicts.

I accidentally pushed it to this branch and now realized that on the other one, `GaloisCategory` is not defined yet. So I'll now keep the instance here and when this one is merged, merge master in the other one.

Comment (joelriou) [reply Mathlib/CategoryTheory/Galois/Basic.lean]: > Shouldn't all the FintypeCat categories be equivalent?

Yes, of course, but this would require a proof, following the pattern you suggested. In this future API, we could introduce the fact that fibre functors behave well with pre/post-composition with an equivalence. (Only the `preservesQuotientsByFiniteGroups` should require some work as we would may have to change the universes of `G`.) We would presumably also a definition like `FibreFunctor.ofIso`: if `F` and `G` are isomorphic functors, and `F` is a fibre functor, then `G` also is.

File: Mathlib/CategoryTheory/Galois/GaloisObjects.lean [hunk 7]
```diff
@@ -0,0 +1,100 @@
...
+the natural action of `Aut X` on `F.obj X` is transitive. -/
+theorem galois_iff_pretransitive (X : C) [ConnectedObject X] :
+    GaloisObject X ↔ MulAction.IsPretransitive (Aut X) (F.obj X) := by
+  rw [galois_iff_aux, Equiv.nonempty_congr <| quotientByAutTerminalEquivUniqueQuotient F X]
+  exact (MulAction.pretransitive_iff_unique_quotient_of_nonempty (Aut X) (F.obj X)).symm
+
+/-- For a Galois object `X`, the quotient `X / Aut X` is terminal.  -/
+noncomputable def isTerminalQuotientGaloisObject (X : C) [GaloisObject X] :
+    IsTerminal <| colimit <| SingleObj.functor <| Aut.toEnd X :=
+  Nonempty.some (GaloisObject.quotientByAutTerminal)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/GaloisObjects.lean:89]:
```suggestion
  Nonempty.some GaloisObject.quotientByAutTerminal
```

File: Mathlib/CategoryTheory/Galois/GaloisObjects.lean [hunk 8]
```diff
@@ -0,0 +1,100 @@
...
+variable [GaloisCategory C] (F : C ⥤ FintypeCat.{w}) [FibreFunctor F]
+
+/-- For a connected object `X` of `C`, the quotient `X / Aut X` is terminal if and only if
+the quotient `F.obj X / Aut X` has exactly one element. -/
+noncomputable def quotientByAutTerminalEquivUniqueQuotient
+    (X : C) [ConnectedObject X] :
+    IsTerminal (colimit <| SingleObj.functor <| Aut.toEnd X) ≃
+    Unique (MulAction.orbitRel.Quotient (Aut X) (F.obj X)) := by
+  letI J : SingleObj (Aut X) ⥤ C := SingleObj.functor (Aut.toEnd X)
+  letI e : (F ⋙ FintypeCat.incl).obj (colimit J) ≅ _ :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/GaloisObjects.lean:67]: These `letI` can be replaced by `let`.

File: Mathlib/CategoryTheory/Galois/Basic.lean [hunk 9]
```diff
@@ -202,4 +206,29 @@ lemma evaluation_aut_injective_of_connected (A : C) [ConnectedObject A] (a : F.o
...
+
+/-- In a `GaloisCategory` the set of morphisms out of a connected object is finite. -/
+instance (A X : C) [ConnectedObject A] [GaloisCategory C] : Finite (A ⟶ X) := by
+  obtain ⟨F, ⟨hF⟩⟩ := @GaloisCategory.hasFibreFunctor C _ _
+  obtain ⟨a⟩ := nonempty_fibre_of_connected F A
+  apply Finite.of_injective (fun f ↦ F.map f a)
+  exact evaluationInjective_of_connected F A X a
+
+/-- In a `GaloisCategory` the set of automorphism of a connected object is finite. -/
+instance [GaloisCategory C] (A : C) [ConnectedObject A] : Finite (Aut A) := by
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Galois/Basic.lean:226]:
```suggestion
variable {C : Type u₁} [Category.{u₂, u₁} C] [GaloisCategory C]

/-- In a `GaloisCategory` the set of morphisms out of a connected object is finite. -/
instance (A X : C) [ConnectedObject A] : Finite (A ⟶ X) := by
  obtain ⟨F, ⟨hF⟩⟩ := @GaloisCategory.hasFibreFunctor C _ _
  obtain ⟨a⟩ := nonempty_fibre_of_connected F A
  apply Finite.of_injective (fun f ↦ F.map f a)
  exact evaluationInjective_of_connected F A X a

/-- In a `GaloisCategory` the set of automorphism of a connected object is finite. -/
instance (A : C) [ConnectedObject A] : Finite (Aut A) := by
```

File: Mathlib/CategoryTheory/Galois/GaloisObjects.lean [hunk 10]
```diff
@@ -0,0 +1,100 @@
...
+
+open Limits Functor
+
+noncomputable instance {G : Type v} [Group G] [Finite G] :
+    PreservesColimitsOfShape (SingleObj G) FintypeCat.incl.{w} := by
+  choose G' hg hf e using Finite.exists_type_zero_nonempty_mulEquiv G
+  exact Limits.preservesColimitsOfShapeOfEquiv (Classical.choice e).toSingleObjEquiv.symm _
+
+/-- A connected object `X` of `C` is Galois if the quotient `X / Aut X` is terminal. -/
+class GaloisObject {C : Type u₁} [Category.{u₂, u₁} C] [GaloisCategory C] (X : C)
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Galois/GaloisObjects.lean:42]: In names below, you already abbrev this to `galois`. So maybe this name could also be `Galois` or `IsGalois`?

Comment (chrisflav) [reply Mathlib/CategoryTheory/Galois/GaloisObjects.lean]: I renamed it to `IsGalois` to align it with `IsGalois` from `Mathlib.FieldTheory.Galois`, I think we should then also rename `ConnectedObject` to `IsConnected` in a later PR.

File: Mathlib/CategoryTheory/Galois/GaloisObjects.lean [hunk 11]
```diff
@@ -0,0 +1,100 @@
...
+
+/-- Given a fibre functor `F` and a connected object `X` of `C`. Then `X` is Galois if and only if
+the natural action of `Aut X` on `F.obj X` is transitive. -/
+theorem galois_iff_pretransitive (X : C) [ConnectedObject X] :
+    IsGalois X ↔ MulAction.IsPretransitive (Aut X) (F.obj X) := by
+  rw [galois_iff_aux, Equiv.nonempty_congr <| quotientByAutTerminalEquivUniqueQuotient F X]
+  exact (MulAction.pretransitive_iff_unique_quotient_of_nonempty (Aut X) (F.obj X)).symm
+
+/-- If `X` is Galois, the quotient `X / Aut X` is terminal.  -/
+noncomputable def isTerminalQuotientGalois (X : C) [IsGalois X] :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/GaloisObjects.lean:87]:
```suggestion
noncomputable def isTerminalQuotientOfIsGalois (X : C) [IsGalois X] :
```

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge

**Comment by joelriou** [comment]
retrying

bors merge
